US09304393B2
Into a glass flask equipped with a thermometer and a capacitor were charged the aqueous solution of crude sodium 2-(2,4-bis(methoxycarbonyl)cyclopentyl)-1,1,2,2-tetrafluoroethanesulfinate obtained as described above, and a catalytic amount of sodium tungstate (IV) dihydrate. Thereto, a 35% by mass hydrogen peroxide solution 3.00 g was added dropwise. After the mixture was stirred at room temperature for 5 hrs, the disappearance of the raw material was confirmed by 19F-NMR to decide completion of the reaction. After the completion of the reaction, 20 mL of water was further added thereto, and the aqueous layer was washed with 30 mL of dichloromethane five times to obtain an aqueous solution of sodium 2-(2,4-bis(methoxycarbonyl)cyclopentyl)-1,1,2,2-tetrafluoroethanesulfonate (precursor compound (a-5)) represented by the following formula (a-5), which was used for the following reaction.

reactant | sodium 2-(2,4-bis(methoxycarbonyl)cyclopentyl)-1,1,2,2-tetrafluoroethanesulfinate | COC(=O)C1C(CC(C1)C(=O)OC)C(C(S(=O)[O-])(F)F)(F)F.[Na+]
reactant | hydrogen peroxide | 3.00 g | OO | H2O2
catalyst | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | 20 mL | O | H2O
product | sodium 2-(2,4-bis(methoxycarbonyl)cyclopentyl)-1,1,2,2-tetrafluoroethanesulfonate | COC(=O)C1C(CC(C1)C(=O)OC)C(C(S(=O)(=O)[O-])(F)F)(F)F.[Na+] | InChI=1S/C11H14F4O7S.Na/c1-21-8(16)5-3-6(9(17)22-2)7(4-5)10(12,13)11(14,15)23(18,19)20;/h5-7H,3-4H2,1-2H3,(H,18,19,20);/q;+1/p-1
